US07569579B2
N-[((1S,2R)-2-{[4-(3-benzyl-1,2,4-oxadiazol-5-yl)piperidin-1-yl]methyl}-1-phenylcyclopropyl)methyl]-N-methylbenzenesulfonamide
N-{[(1S,2R)-2-formyl-1-phenylcyclopropyl]methyl}-N-methylbenzenesulfonamide and 4-(3-benzyl-1,2,4-oxadiazol-5-yl)piperidine (incorporating by reference as needed WO 00/39125) were reacted as per Preparation 10 to give the title compound. 1H NMR (300 MHz, DMSO-d6) δ 7.69-7.55 (m, 5H), 7.36-7.18 (m, 10H), 4.08 (s, 2H), 3.91 (d, J=13.2 Hz, 1H), 3.08-2.98 (m, 2H), 2.81 (d, J=13.2 Hz, 1H), 2.84-2.78 (m, 1H), 2.59-2.43 (m, 2H), 2.52 (s, 3H), 2.27-1.97 (m, 4H), 1.80-1.66 (m, 2H), 1.45-1.39 (m, 1H), 1.09-0.99 (m, 1H), 0.80 (m, 1H). ES-LCMS m/z 557.2 (M+H).

reactant | N-{[(1S,2R)-2-formyl-1-phenylcyclopropyl]methyl}-N-methylbenzenesulfonamide | C(=O)[C@H]1[C@@](C1)(C1=CC=CC=C1)CN(S(=O)(=O)C1=CC=CC=C1)C | C18H19NO3S
reactant | 4-(3-benzyl-1,2,4-oxadiazol-5-yl)piperidine | C(C1=CC=CC=C1)C1=NOC(=N1)C1CCNCC1 | C14H17N3O
product | N-[((1S,2R)-2-{[4-(3-benzyl-1,2,4-oxadiazol-5-yl)piperidin-1-yl]methyl}-1-phenylcyclopropyl)methyl]-N-methylbenzenesulfonamide | C(C1=CC=CC=C1)C1=NOC(=N1)C1CCN(CC1)C[C@H]1[C@@](C1)(C1=CC=CC=C1)CN(S(=O)(=O)C1=CC=CC=C1)C | C32H36N4O3S
